US07199265B2
To a solution of methyl[3,5-dichloro-4-(4-nitrophenoxy)phenyl] acetate (14 g) in ethyl acetate (90 mL) was added platinum(IV) oxide monohydrate (0.48 g) and the mixture was stirred vigorously under hydrogen gas (1 atmospheres) for 6 hours. The suspension was filtered and the filtrate concentrated. The residue was purified on column (silica gel, n-heptane/ethyl acetate, 1:1) to give 7.0 g of methyl[3,5-dichloro-4-(4-aminophenoxy)-phenyl] acetate as orange crystals.

reactant | methyl[3,5-dichloro-4-(4-nitrophenoxy)phenyl] acetate | 14 g | C(C)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC=C(C=C1)[N+](=O)[O-])Cl)C | C15H11Cl2NO5
solvent | ethyl acetate | 90 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum(IV) oxide monohydrate | 0.48 g | O.[Pt](=O)=O
product | methyl[3,5-dichloro-4-(4-aminophenoxy)-phenyl] acetate | 7.0 g | C(C)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC=C(C=C1)N)Cl)C | C15H13Cl2NO3
